US07495007B2
Preparation of intermediate 5-chloro-2-(3-hydroxy-2,2-dimethyl-propoxy)-benzaldehyde
5-Chloro-benzaldehyde (3.1 g, 20 mmol), 3-bromo-2,2-dimethyl-propan-1-ol (3 mL, 24 mmol), K2CO3 (5.5 g, 40 mmol) and KI (0.5 g) were mixed in DMF (20 mL). Then mixture was irradiated under microwave at 200° C. for 1 h. The mixture was filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate and washed with 1N NaOH. Then the organic layer was separated, dried over anhydrous Na2SO4 and concentrated to give title compound as yellow solid (Yield: 1.6 g).

reactant | 5-Chloro-benzaldehyde | 20 mmol, 3.1 g | ClC=1C=CC=C(C=O)C1 | C7H5ClO
reactant | 3-bromo-2,2-dimethyl-propan-1-ol | 24 mmol, 3 mL | BrCC(CO)(C)C | C5H11BrO
reactant | K2CO3 | 40 mmol, 5.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-chloro-2-(3-hydroxy-2,2-dimethyl-propoxy)-benzaldehyde | Yield: 1.6 g | ClC=1C=CC(=C(C=O)C1)OCC(CO)(C)C | C12H15ClO3
